US04407930
F. 2-p-Toluenesulfonamido-p-cresol tosylate
To a stirred solution of 2-amino-p-cresol (12.3 g, 0.10 mol) in 125 ml of pyridine was added p-toluenesulfonyl chloride (38.1 g, 0.20 mol) in one portion. Stirring was continued overnight at ambient temperature. TLC now indicated no starting material, but there were two products. Another 7.6 g (20 percent excess) of p-toluenesulfonyl chloride was added and stirring continued for 6 hours. The reaction was poured into excess hydrochloric acid and stirred until completely solidified. The tan solid precipitate was filtered, washed with water and nearly dried. The damp filter cake was dissolved in one liter of boiling ethanol and let stand overnight at ambient temperature. Yield 33.0 g (76 percent) of crystals. NMR was consistent for the product.

reactant | 2-amino-p-cresol | 0.10 mol, 12.3 g | NC1=CC(=CC=C1O)C | C7H9NO
reactant | p-toluenesulfonyl chloride | 0.20 mol, 38.1 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | p-toluenesulfonyl chloride | 7.6 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 125 ml | N1=CC=CC=C1 | C5H5N
product | 2-p-Toluenesulfonamido-p-cresol tosylate | S(=O)(=O)(C1=CC=C(C)C=C1)OC1=CC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)C)C | C21H21NO5S2
